US05110956
Sodium [{1-(1,3-benzodioxol-5-yl)-2-methylpropyl}thio]acetate
3.99 ml of a 2N aqueous solution of sodium hydroxide was added to 2.14 g of [{1-(1,3-benzodioxol-5-yl)-2-methyl-1-propyl}thio]acetic acid to obtain a solution, followed by the addition of ethanol. The mixture was distilled to remove the solvent. Ether was added to the obtained residue to generate a precipitate. This precipitate was separated by filtration and dried to obtain 2.2 g of the title compound as a white powder.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | [{1-(1,3-benzodioxol-5-yl)-2-methyl-1-propyl}thio]acetic acid | 2.14 g | O1COC2=C1C=CC(=C2)C(C(C)C)SCC(=O)O | C13H16O4S
solvent | ethanol | C(C)O | C2H6O
product | Sodium [{1-(1,3-benzodioxol-5-yl)-2-methylpropyl}thio]acetate | 2.2 g | O1COC2=C1C=CC(=C2)C(C(C)C)SCC(=O)[O-].[Na+] | InChI=1S/C13H16O4S.Na/c1-8(2)13(18-6-12(14)15)9-3-4-10-11(5-9)17-7-16-10;/h3-5,8,13H,6-7H2,1-2H3,(H,14,15);/q;+1/p-1
